US08563583B2
C. (5-Chloropyridin-2-yl)methyl benzoate
Title compound was prepared according to the procedure described in: Hasnik, Z.; Silhar, P.; Hocek, M. Synlett 2008, 4, 543. A solution of (benzoyloxymethyl)zinc(II) iodide Part B (2.17 mL, 1.949 mmol) was added to a solution of 2-bromo-5-chloropyridine (125 mg, 0.650 mmol) and Pd(PPh3)4 (37.5 mg, 0.032 mmol) in THF (1.30 mL). The reaction mixture was stirred at RT for 5 h at which point it was quenched with 1M NaH2PO4 (30 mL) The solid formed was filtered and washed well with water. The filtrate was extracted with DCM (3×25 mL) and the combined organic layers were dried over anhydrous Na2SO4 and concentrated. The crude product was subjected to flash chromatography (silica gel/hexanes-EtOAc 100:0 to 50:50 gradient) to afford (5-chloropyridin-2-yl)methyl benzoate 16C (101 mg, 63% yield) as an off-white solid. LC-MS, [M+H]+=248. HPLC-Method 8; 3.30 min.

reactant | (benzoyloxymethyl)zinc(II) iodide | [I-].C(C1=CC=CC=C1)(=O)OC[Zn+]
reactant | 2-bromo-5-chloropyridine | 0.650 mmol, 125 mg | BrC1=NC=C(C=C1)Cl | C5H3BrClN
solvent | THF | 1.30 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.032 mmol, 37.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-chloropyridin-2-yl)methyl benzoate | 101 mg, 63% yield | C(C1=CC=CC=C1)(=O)OCC1=NC=C(C=C1)Cl | C13H10ClNO2
